US09388189B2
a) (S)-Benzyl 4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylate
(S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (418 mg, 1.56 mmol) and benzyl 4-chloro-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylate (500 mg, 1.74 mmol) were dissolved in tert-butanol (8 ml) and DIEA (2 ml, 11.45 mmol) was added. After stirring the mixture at 80° C. for 12 h, the solvent was evaporated under reduced pressure and the residue was suspended in water, basified with sodium carbonate and extracted with AcOEt (×3). The organic phase was successively washed with water and brine, dried over magnesium sulphate, filtered and the solvent evaporated under reduced pressure. The residue was purified using SP1® Purification System (0% to 50%, hexane-ethyl acetate) to obtain 560 mg (66% yield) of the title compound as a white solid. Purity 96%.

reactant | (S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 1.56 mmol, 418 mg | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C15H16N4O
reactant | benzyl 4-chloro-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylate | 1.74 mmol, 500 mg | ClC=1C2=C(N=CN1)NC=C2C(=O)OCC2=CC=CC=C2 | C14H10ClN3O2
reactant | DIEA | 11.45 mmol, 2 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | tert-butanol | 8 ml | C(C)(C)(C)O | C4H10O
product | (S)-Benzyl 4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylate | 560 mg, 66% yield | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)NC=C1C(=O)OCC1=CC=CC=C1 | C29H25N7O3
